US04604400
Pyrazolo[1,5-a]pyridine-3-carboxylic acid (9.72 g) was dissolved in hot anhydrous methanol (225 ml) and treated with a solution of potassium hydroxide (3.73 g) in dry methanol (45 ml) with stirring. The resulting orange solution was evaporated to dryness under reduced pressure, to give a colourless solid. This solid was treated with dry toluene (300 ml) and the mixture was stirred and treated with oxalyl chloride (10.2 ml), with stirring, at room temperature. After further stirring for a period of 15 minutes the mixture was treated with pyridine (45 drops), and the mixture was vigorously stirred overnight. The mixture was then filtered and the filtrate was evaporated under reduced pressure, to give pyrazolo[1,5-a]pyridine-3-carbonyl chloride (10.6 g), m.p. 119°-120° C. (in a sealed tube).

reactant | Pyrazolo[1,5-a]pyridine-3-carboxylic acid | 9.72 g | N1=CC(=C2N1C=CC=C2)C(=O)O | C8H6N2O2
reactant | potassium hydroxide | 3.73 g | [OH-].[K+]
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | oxalyl chloride | 10.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methanol | 225 ml | CO | CH4O
solvent | methanol | 45 ml | CO | CH4O
catalyst | pyridine | 45 drops | N1=CC=CC=C1 | C5H5N
product | pyrazolo[1,5-a]pyridine-3-carbonyl chloride | 10.6 g | N1=CC(=C2N1C=CC=C2)C(=O)Cl | C8H5ClN2O
